US05830915
N-(Dimethylphosphinyl)-N-benzyl-D-leucine methyl ester (158 mg, 0.51 mmol) is treated with a solution of NH2OK (2.8 mL, 1.76M in methanol) prepared as described in Fieser and Fieser, Vol. 1, p. 478). The reaction is allowed to stir 3 hours at room temperature at which time is determined complete by TLC. The reaction mixture is neutralized with 1M aqueous HCl; the volatiles are removed until the product oils out. Methanol is then added followed by water dropwise until the solution appears cloudy. The crystals are collected by filtration to give N-hydroxy-2(R)-[[dimethylphosphinyl]benzylamino]-4-methyl-pentanamide as a colorless solid: MS-IS m/z 313 [M+H]+, 335 [M+Na]+, 357 [M+K]+. (R2 =isobutyl, R1 =benzyl, R3 =methyl, R4 =phenyl).

reactant | N-(Dimethylphosphinyl)-N-benzyl-D-leucine methyl ester | 0.51 mmol, 158 mg | COC([C@H](N(CC1=CC=CC=C1)P(=O)(C)C)CC(C)C)=O | C16H26NO3P
reactant | NH2OK | 1.76M, 2.8 mL | NO[K]
reactant | HCl | 1M | Cl | ClH
product | N-hydroxy-2(R)-[[dimethylphosphinyl]benzylamino]-4-methyl-pentanamide | ONC([C@@H](CC(C)C)N(CC1=CC=CC=C1)P(=O)(C)C)=O | C15H25N2O3P
